US08022222B2
Ethyl 3-(2-(5-bromo-4-(2,6-difluorophenoxy)pyridin-2-ylamino)thiazol-4-yl)propanoate (0.1932 mmol), pyridin-3-ylboronic acid (0.02850 g, 0.2319 mmol), Pd(PPh3)4 (0.02233 g, 0.01932 mmol), in DME (10 mL), and 2M sodium bicarbonate (2 mL) are combined and heated to 80° C. overnight. The reaction mixture is cooled and partitioned between CH2Cl2 and water. The combined organic layers are dried, filtered, and concentrated. The residue is purified by silica gel, eluting with 30-40% EtOAc in hexane, to afford ethyl 3-(2-(4-(2,6-difluorophenoxy)-3,3′-bipyridin-6-ylamino)thiazol-4-yl)propanoate.

reactant | Ethyl 3-(2-(5-bromo-4-(2,6-difluorophenoxy)pyridin-2-ylamino)thiazol-4-yl)propanoate | 0.1932 mmol | BrC=1C(=CC(=NC1)NC=1SC=C(N1)CCC(=O)OCC)OC1=C(C=CC=C1F)F | C19H16BrF2N3O3S
reactant | pyridin-3-ylboronic acid | 0.2319 mmol, 0.02850 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | sodium bicarbonate | 2M, 2 mL | C([O-])(O)=O.[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.01932 mmol, 0.02233 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-(2-(4-(2,6-difluorophenoxy)-3,3′-bipyridin-6-ylamino)thiazol-4-yl)propanoate | FC1=C(OC2=C(C=NC(=C2)NC=2SC=C(N2)CCC(=O)OCC)C=2C=NC=CC2)C(=CC=C1)F | C24H20F2N4O3S
